US05530019
Step 1: Preparation of benzyl 6-bromohexyl ether
To a suspension of sodium hydride in 1,4-dioxane was added benzyl alcohol in 1,4-dioxane over a period of 30 minutes at 80° C., and the mixture was stirred for 1 hour. The obtained alkoxide solution was added to a solution of 1,6-dibromohexane in 1,4-dioxane at room temperature. The mixture was stirred at 80° C. for 14 hours and insoluble materials were filtered off. The filtrate was concentrated and the residue was distilled under reduced pressure to give the object compound.

reactant | sodium hydride | [H-].[Na+]
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | benzyl 6-bromohexyl ether | BrCCCCCCOCC1=CC=CC=C1 | C13H19BrO
